US05439917
2,3-Dimethyl-7-[p-methylphenacyl)pyrrolo[2,3-b]pyridine.
A solution of 2,3-dimethylpyrrolo[2,3-b]pyridine (0.16 g, 1.1 mmol) and p-methylphenacyl bromide (0.26 g, 1.2 mmol) in 4.5 ml CH3CN was warmed to reflux which was enough to initiate crystallisation of the product as a light yellow solid. The precipitate was isolated as described in example 27 furnishing 0.29 g (74%) pure hydrobromide.

reactant | 2,3-dimethylpyrrolo[2,3-b]pyridine | 1.1 mmol, 0.16 g | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | p-methylphenacyl bromide | 1.2 mmol, 0.26 g | CC1=CC=C(C(CBr)=O)C=C1 | C9H9BrO
reactant | hydrobromide | 0.29 g | Br | BrH
solvent | CH3CN | 4.5 ml | CC#N | C2H3N
product | 2,3-Dimethyl-7-[p-methylphenacyl)pyrrolo[2,3-b]pyridine | CC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=C(C=C2)C)=N1)C | C18H18N2O
